US04801605
To a solution of 5 g of 8-methoxy-3,4-dihydro-2H-[1]-benzothiopyran-3-one (J. Chem. Soc. 1948, 1610), and 4 g of anhydrous dimethylamine in 50 ml of toluene is stirred with 4 A molecular sieves for 2 hours. The reaction mixture is filtered and the solvent removed in vacuo. This residue is added to a solution of 3.2 g of sodium cyanoborohydride in 10 ml of acetic acid and 50 ml of ethanol. After 30 minutes at room temperature, the reaction mixture is poured onto 3N hydrochloric acid, and washed with ether. After basification of the aqueous layer followed by ether extraction, the organic layer is dried over magnesium sulfate and the solvent removed in vacuo. The residue is added to a solution of lithium diphenylphosphide prepared from 4.9 g diphenylphosphine, 19 ml of 1.3M butyl lithium in hexane and 70 ml of dry tetrahydrofuran, and the mixture is refluxed for 1 hour. The reaction mixture is poured onto 2N hydrochloric acid and washed with ether. After neutralization of the aqueous layer with sodium bicarbonate, the product is extracted with ether and the solvent is removed in vacuo after drying over magnesium sulfate. The residue is dissolved in ethanol; after acidification with 5.4N ethanolic hydrogen chloride and cooling, 8-hydroxy-3,4-dihydro-N,N-dimethyl-2H-[1]-benzothiopyran-3-amine hydrochloride, melting point 172°-173°, is obtained.

reactant | 8-methoxy-3,4-dihydro-2H-[1]-benzothiopyran-3-one | 5 g | COC1=CC=CC=2CC(CSC21)=O | C10H10O2S
reactant | dimethylamine | 4 g | CNC | C2H7N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 8-hydroxy-3,4-dihydro-N,N-dimethyl-2H-[1]-benzothiopyran-3-amine hydrochloride | Cl.OC1=CC=CC=2CC(CSC21)N(C)C | InChI=1S/C11H15NOS.ClH/c1-12(2)9-6-8-4-3-5-10(13)11(8)14-7-9;/h3-5,9,13H,6-7H2,1-2H3;1H
